Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-1.67512197181
[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11]1>>[H:1][C:2][O:11][C:8]([O:7][C:4]([C:3])([H:5])[H:6])([H:9])[H:10],5.75083982255
[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]=[C:10]([H:11])[H:12],-1.1474621539399998
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:12].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[O:13][H:14],4.26473207635
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[C:7]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:8]#[C:9],7.42615693773
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3],4.96050285976
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7]([O:8][H:9])[C:10]([H:11])[H:12],-0.72777186537
[C:5]([H:6])[H:7].[H:1][O:2][C:3](=[C:4])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-7.79999723359
[C:6]([H:7])=[C:8]([H:9])[O:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-2.2971626301700003
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-7.245098474510001
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][H:8])[O:10][H:11].[H:9]>>[C:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11],-2.14887936946
[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.88301711592
[H:1][O:2][C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.57288045267
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])(=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:4][H:5],-0.86721406361
[C:1]#[C:2][C:5]([H:6])=[C:7]([H:8])[H:9].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-4.3627848482300005
[C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.20381022755
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-5.0348510622
[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.53897654438
[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][H:7]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7],-3.68707993372
[C:8]([H:9])[O:10][H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-2.96534110032
[O:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[O:1][C:2]1([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],0.42214158094
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:8]([H:9])([H:10])[H:11],4.34066965815
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]1=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13].[H:4],1.94266079417
[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[O:2],3.41073971
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2][C:3]1([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]1[H:11],0.40214702452
[H:1][C:2]=[C:3]([O:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]=[C:3]([O:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1],4.26633013379
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:9]([H:10])([H:11])[O:12][H:13].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.0127447497
[H:1][C:2]=[C:3]([C:4]#[C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6]/[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.48834874125
[H:1][O:2][C:3]=[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]#[C:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10],2.2928279724
